US07141586B2
{cis-4-[(2-Chloro-5-fluoro-pyridine-3-carbonyl)-amino]-cyclohexyl}-carbamic acid tert-butyl ester (5.44 g, 14.6 mmol), 3-methylsulfanylphenol (2.05 g, 14.6 mmol) and caesium carbonate (7.15 g, 21.9 mmol) were suspended in dimethylformamide (100 ml) and the reaction was heated to 65° C. and stirred at this temperature under nitrogen for 18 h, then at room temperature for 48 h. The reaction was cooled to room temperature, concentrated under reduced pressure and the residue was diluted with water (75 ml). It was then extracted with ethyl acetate (3×100 ml) and the combined organic extracts were washed with water (2×30 ml), brine (30 ml), dried over MgSO4 and the solvent removed under reduced pressure. The residue was purified by flash column chromatography on silica gel eluting with pentane:ether (50:50 changing to 45:55 then 40:60, by volume) to give (cis-4-{[-5-fluoro-2-(3-methylsulfanyl-phenoxy)-pyridine-3-carbonyl]-amino}-cyclohexyl)-carbamic acid tert-butyl ester (3.69 g) as a white solid.

reactant | {cis-4-[(2-Chloro-5-fluoro-pyridine-3-carbonyl)-amino]-cyclohexyl}-carbamic acid tert-butyl ester | 14.6 mmol, 5.44 g | C(C)(C)(C)OC(N[C@@H]1CC[C@@H](CC1)NC(=O)C=1C(=NC=C(C1)F)Cl)=O | C17H23ClFN3O3
reactant | 3-methylsulfanylphenol | 14.6 mmol, 2.05 g | CSC=1C=C(C=CC1)O | C7H8OS
reactant | caesium carbonate | 21.9 mmol, 7.15 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | (cis-4-{[-5-fluoro-2-(3-methylsulfanyl-phenoxy)-pyridine-3-carbonyl]-amino}-cyclohexyl)-carbamic acid tert-butyl ester | 3.69 g | C(C)(C)(C)OC(N[C@@H]1CC[C@@H](CC1)NC(=O)C=1C(=NC=C(C1)F)OC1=CC(=CC=C1)SC)=O | C24H30FN3O4S
